US07253286B2
7-Methoxy-4-(5-(3-phenylureido)thiophen-2-ylsulfanyl)quinoline-6-carboxamide
4-(5-Aminothiophen-2-ylsulfanyl)-7-methoxyquinoline-6-carboxamide (49.0 mg, 0.150 mmol) and phenylisocyanate (19.6 mg, 0.165 mmol) were stirred in dimethylformamide (1 ml) at room temperature for 2 hours. The reaction solution was distributed between ethyl acetate and water, the organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate, the drying agent was filtered off and the filtrate was distilled off under reduced pressure. The obtained crude product was suspended in ethyl acetate and diluted with hexane, and then the crystals were filtered out, washed with hexane and blow-dried to obtain the title compound (25.0 mg, 0.056 mmol, 37%) as light yellow crystals.

reactant | 4-(5-Aminothiophen-2-ylsulfanyl)-7-methoxyquinoline-6-carboxamide | 0.150 mmol, 49.0 mg | NC1=CC=C(S1)SC1=CC=NC2=CC(=C(C=C12)C(=O)N)OC | C15H13N3O2S2
reactant | phenylisocyanate | 0.165 mmol, 19.6 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | water | O | H2O
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 7-Methoxy-4-(5-(3-phenylureido)thiophen-2-ylsulfanyl)quinoline-6-carboxamide | 0.056 mmol, 25.0 mg, 37% | COC1=C(C=C2C(=CC=NC2=C1)SC=1SC(=CC1)NC(=O)NC1=CC=CC=C1)C(=O)N | C22H18N4O3S2
